US09233964B2
3-(Sulfamoylamino)oxetane
Sulfamide (15.6 mmol) was dissolved in H2O (8 mL), added oxetan-3-amine (6.85 mmol) and stirred at 70° C. for 16 h and then at 100° C. for another 16 h. The obtained reaction mixture was cooled to rt and freezedried affording the title compound as white solid. Used without further purification.

reactant | Sulfamide | 15.6 mmol | S(=O)(=O)(N)N | H4N2O2S
reactant | oxetan-3-amine | 6.85 mmol | O1CC(C1)N | C3H7NO
solvent | H2O | 8 mL | O | H2O
product | 3-(Sulfamoylamino)oxetane | S(N)(=O)(=O)NC1COC1 | C3H8N2O3S
